US08293912B2
(1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-tert-butoxycarbonylethylisoquinoline oxalate (1.0 g, 0.00178 moles) was dissolved in water (10 ml) and saturated aqueous sodium bicarbonate solution was added to produce a pH in the range of 9-10. Dichloromethane (20 ml) was added and the mixture was stirred for 15 minutes at ambient temperature. The upper organic layer was separated and the aqueous layer was extracted three times with dichloromethane (3×20 ml). The combined organic layer was dried over magnesium sulfate. The organic layer was evaporated under reduced pressure to afford a residual oil. Iodomethane (8 ml, 0.128 moles) was added to the oily residue and the mixture was stirred to obtain a solution and kept at room temperature overnight. The reaction mixture was added to diethyl ether (50 ml) to afford a suspension, which was stirred at ambient temperature for 30 minutes. The thus formed solid was collected by filtration, washed with diethyl ether (2×5 ml) and dried to afford a mixture of 70% of the cis and 30% of the trans isomers of (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-tert-butoxycarbonylethyl-isoquinolinium iodide (0.95 g; 89% yield).

reactant | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-tert-butoxycarbonylethylisoquinoline oxalate | 0.00178 moles, 1.0 g | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C[C@]1(NCCC2=CC(=C(C=C12)OC)OC)CCC(=O)OC(C)(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | Iodomethane | 0.128 moles, 8 ml | IC | CH3I
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-tert-butoxycarbonylethyl-isoquinolinium iodide | 0.95 g, 89% yield | [I-].COC=1C=C(C=CC1OC)C[C@]1([NH+](CCC2=CC(=C(C=C12)OC)OC)C)CCC(=O)OC(C)(C)C | InChI=1S/C28H39NO6.HI/c1-27(2,3)35-26(30)11-13-28(18-19-9-10-22(31-5)23(15-19)32-6)21-17-25(34-8)24(33-7)16-20(21)12-14-29(28)4;/h9-10,15-17H,11-14,18H2,1-8H3;1H/t28-;/m1./s1
